US08314117B2
(5S,6S,9R)-6-(2,3-difluorophenyl)-5-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (example 4).
In an oven-dried 100 mL round-bottom flask was suspended (5S,6S,9R)-6-(2,3-difluorophenyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-yl acetate (96.7 mg, 0.290 mmol) (azeotroped with dry benzene) and 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (167 mg, 0.435 mmol) in dimethylformamide (3 mL) under nitrogen. After cooling to −15° C. (ice-methanol bath), NaHMDS (0.870 mL, 0.870 mmol) was added dropwise. The resulting dark-red solution was stirred under nitrogen at −15° C.˜0° C. for 1 h. LCMS showed desired product and possible over-hydrolysed product. After another 1 h at room temperature, complete hydrolysis was not yet achieved. The reaction was quenched with sodium bicarbonate solution and volatiles were removed. The mixture was diluted with ethyl acetate. The layers were separated and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried with sodium sulfate, and concentrated to give a yellow oil. Purification by FCC up to 10% methanol/methylene chloride afforded the acetate-protected product (2nd peak, 51 mg, 30%, not pure) as well as the target alcohol (3rd peak, 20 mg, 13%). In a 250 mL round-bottom flask was (5S,6S,9R)-5-acetoxy-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (51 mg, 0.088 mmol) (acetate protected product from above) in methanol (1 mL) to give a colorless solution. Potassium carbonate (122 mg, 0.883 mmol) was added, and the mixture was stirred at room temperature for 1 h. LCMS indicated complete conversion. Methanol was removed in vacuo. The residue was partitioned between water and ethyl acetate. The layers were separated (no product in aqueous layer by LCMS). The organic layer was washed with brine, dried, and concentrated to give a white solid. Purification by FCC up to 10% methanol/methylene chloride afforded the desire product (28 mg, 56%) as a light yellow solid. 1H and 19F NMR spectra were obtained and matched that of example 4.

reactant | (5S,6S,9R)-6-(2,3-difluorophenyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-yl acetate | 0.290 mmol, 96.7 mg | C(C)(=O)O[C@H]1[C@@H](CC[C@H](C2=NC=CC=C21)O)C2=C(C(=CC=C2)F)F | C18H17F2NO3
reactant | 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.435 mmol, 167 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H17N5O5
reactant | NaHMDS | 0.870 mmol, 0.870 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (5S,6S,9R)-6-(2,3-difluorophenyl)-5-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)O)C2=C(C(=CC=C2)F)F | C28H27F2N5O4
